US07888366B2
To a cooled (15° C.) and stirred solution of tin (II) chloride (0.37 g, 1.65 mmol) and con. hydrochloric acid (2.0 mL) was added a solution of 2-(2,4-difluorophenoxymethyl)-6-nitrobenzonitrile (160.0 mg, 0.55 mmol). The reaction mixture was slowly warmed to room temperature and stirred for 3 hours. The reaction mixture was poured on to crushed-ice and potassium hydroxide solution, stirred, extracted with dichloromethane, filtered and dried to yield 131 mg of 2-amino-6-(2,4-difluorophenoxymethyl)benzonitrile.

reactant | tin (II) chloride | 1.65 mmol, 0.37 g | [Sn](Cl)Cl
reactant | hydrochloric acid | 2.0 mL | Cl | ClH
reactant | 2-(2,4-difluorophenoxymethyl)-6-nitrobenzonitrile | 0.55 mmol, 160.0 mg | FC1=C(OCC2=C(C#N)C(=CC=C2)[N+](=O)[O-])C=CC(=C1)F | C14H8F2N2O3
reactant | potassium hydroxide | [OH-].[K+]
product | 2-amino-6-(2,4-difluorophenoxymethyl)benzonitrile | 131 mg | NC1=C(C#N)C(=CC=C1)COC1=C(C=C(C=C1)F)F | C14H10F2N2O
